US06900336B2
To a solution of NaH (0.14 g, 1 eq) in 30 mL of ethylene glycol dimethyl ether stirred at 0° C. under nitrogen was added [2-(3-bromo-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester (1.82 g, 1.05 eq). After 1 hour at 0° C., 7-((R)-2-formyl-5-oxo-pyrrolidin-1-yl)-heptanoic acid methyl ester (1.44 g, 5.64 mmol) in 2 mL of DME was added slowly. The ice bath was removed and then the mixture was stirred for an additional 3 hours at room temperature. Saturated ammonium chloride solution was added and the solution was extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate, concentrated under reduced pressure, and purified by chromatography. EtOAc(1):Hexane(1)followed by EtOAc(5):Hexane(1) to yield 1.6 g of 7-{(R)-2-[(E)-3-(3-bromo-phenyl)-3-oxo-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid methyl ester.

reactant | NaH | 0.14 g, 1 eq | [H-].[Na+]
reactant | [2-(3-bromo-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | 1.82 g, 1.05 eq | COP(OC)(=O)CC(=O)C1=CC(=CC=C1)Br | C10H12BrO4P
reactant | 7-((R)-2-formyl-5-oxo-pyrrolidin-1-yl)-heptanoic acid methyl ester | 5.64 mmol, 1.44 g | COC(CCCCCCN1[C@H](CCC1=O)C=O)=O | C13H21NO4
solvent | ethylene glycol dimethyl ether | 30 mL | COCCOC | C4H10O2
solvent | DME | 2 mL | COCCOC | C4H10O2
product | 7-{(R)-2-[(E)-3-(3-bromo-phenyl)-3-oxo-propenyl]-5-oxo-pyrrolidin-1-yl}-heptanoic acid methyl ester | 1.6 g | COC(CCCCCCN1[C@H](CCC1=O)\C=C\C(=O)C1=CC(=CC=C1)Br)=O | C21H26BrNO4
